2124-12-13 06:57:00 Physician Resident Progress Note
Chief Complaint: SOB
   24 Hour Events:
 BLOOD CULTURED - At [**2124-12-13**] 02:00 AM
   done x2 from Lt and Rt arm.
 NASAL SWAB - At [**2124-12-13**] 02:30 AM
   to R/O MRSA.
TTE:Overall left ventricular systolic function is mildly depressed
   (LVEF= 40-50 %) secondary to akinesis of the basal inferior posterior
   wall, and hypokinesis of the midventricular segments of the inferior
   posterior wall
 Weaned pressors throughout evening
   - Pt continued on nebs
    -U/a without infxn, FeNA 0.3
   - Surgery to see pt tomorrow
   - MVO2 57
   - Cortisol 38
   - Cx with NGTD
   - Hct stable at 25.6 (29 on admission). No vomitting blood, melena.
   Blood-tinged sputum.
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-12-13**] 02:00 AM
   Ampicillin - [**2124-12-13**] 02:20 AM
   Acyclovir - [**2124-12-13**] 03:05 AM
   Vancomycin - [**2124-12-13**] 04:50 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-12-12**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2124-12-13**] 12:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: NPO
   Respiratory: Cough
   Gastrointestinal: No(t) Constipation
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-12-13**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.5
   HR: 90 (90 - 116) bpm
   BP: 138/70(86) {127/70(85) - 189/105(125)} mmHg
   RR: 21 (17 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     82 mL
                                                                    518 mL
   PO:
             TF:
   IVF:
                                                                     82 mL
                                                                    518 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    165 mL
   Urine:
                                                                    100 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -818 mL
                                                                    353 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.42/43/108/24/2
   PaO2 / FiO2: 309
   Physical Examination
   General Appearance: No acute distress, Diaphoretic
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Bronchial: , Rhonchorous: throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, Obese
   Extremities: Right: Trace, Left: Trace
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): time, place and self, Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   309 K/uL
   13.3 g/dL
   213 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.7 mEq/L
   16 mg/dL
   101 mEq/L
   138 mEq/L
   39.2 %
   12.6 K/uL
        [image002.jpg]
                            [**2124-12-12**]  08:38 PM
                            [**2124-12-13**]  12:15 AM
                            [**2124-12-13**]  04:24 AM
   WBC
   12.6
   12.6
   Hct
   39.2
   39.2
   Plt
   343
   309
   Cr
   0.6
   0.7
   TropT
   0.07
   0.08
   TCO2
   29
   Glucose
   193
   213
   Other labs: PT / PTT / INR:13.6/24.4/1.2, CK / CKMB /
   Troponin-T:295/7/0.08, ALT / AST:25/40, Alk Phos / T Bili:75/, Lactic
   Acid:1.4 mmol/L, Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 HYPERTENSION, BENIGN
 CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-12-12**] 09:00 PM
   20 Gauge - [**2124-12-12**] 09:03 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2124-12-13 07:19:00 Physician Resident Progress Note
Chief Complaint: RO MI, Stroke
   24 Hour Events:
   Admitted from ED for possible MI and apparent stroke; MRI with  acute
   infarction of carona radiata.  Neuro Exam stable overnight.
   Started on Antibiotics to cover for meningitis.
 BLOOD CULTURED - At [**2124-12-13**] 02:00 AM
   done x2 from Lt and Rt arm.
 NASAL SWAB - At [**2124-12-13**] 02:30 AM
   to R/O MRSA.
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-12-13**] 02:00 AM
   Ampicillin - [**2124-12-13**] 02:20 AM
   Acyclovir - [**2124-12-13**] 03:05 AM
   Vancomycin - [**2124-12-13**] 04:50 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-12-12**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2124-12-13**] 12:06 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Psychiatric / Sleep: somnolent but arousable
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2124-12-13**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.5
   HR: 87 (87 - 116) bpm
   BP: 144/73(89) {127/70(85) - 189/105(125)} mmHg
   RR: 21 (17 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                     82 mL
                                                                    536 mL
   PO:
             TF:
   IVF:
                                                                     82 mL
                                                                    536 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    165 mL
   Urine:
                                                                    100 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -818 mL
                                                                    371 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 97%
   ABG: 7.42/43/108/24/2
   PaO2 / FiO2: 309
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: RRR, S1. S2 no murmur appreciated
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Expansion: Symmetric, Breath Sounds: Clear
   Abdominal: Soft,  non-tender, Bowel sounds present
   Skin:  no rash, ecchymoses
   Neurologic: Follows simple commands,  Oriented to self, Movement:
   Purposeful, Not Sedated, Not Paralyzed, Tone: normal, right sided
   weakness, upper and lower extremity [**3-22**], left [**4-22**].  Toes downgoig on
   right, up on left
   Labs / Radiology
   309 K/uL
   13.3 g/dL
   213 mg/dL
   0.7 mg/dL
   24 mEq/L
   3.7 mEq/L
   16 mg/dL
   101 mEq/L
   138 mEq/L
   39.2 %
   12.6 K/uL
        [image002.jpg]
                            [**2124-12-12**]  08:38 PM
                            [**2124-12-13**]  12:15 AM
                            [**2124-12-13**]  04:24 AM
   WBC
   12.6
   12.6
   Hct
   39.2
   39.2
   Plt
   343
   309
   Cr
   0.6
   0.7
   TropT
   0.07
   0.08
   TCO2
   29
   Glucose
   193
   213
   Other labs: PT / PTT / INR:13.6/24.4/1.2, CK / CKMB /
   Troponin-T:295/7/0.08, ALT / AST:25/40, Alk Phos / T Bili:75/, Lactic
   Acid:1.4 mmol/L, Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Assessment: This is a 74 year-old female with a history of CAD and
   retinal artery occlusion who p/w stroke in the setting of possible
   NSTEMI.
   .
   # Stroke:   Neuro exam appears stable this AM.  Neurology following.
   Currently follows commands but is disarthric with notable right facial
   weakness.
   - follow-up neurology recs
   - SBP <200
   - secondary prevention w/ASA.
   -TTE to eval for clot
   -q 2 h neuro checks to eval for evolution of exam
   - NPO for now; obtain speech and swallow recs.
   - low threshold to intubate if not protecting airway
   .
   # ? NSTEMI: Troponins slightly elevated but not risking.  CK trending
   down.  No evidence of afib.
   - ASA; holding plavix/ACE-I/satin while pt NPO
   - serial EKGs
   - PM cardiac enzymes
   - monitor on tele
   - TTE today
   # Decreased UOP:  Unclear cause.-? diminished cardiac output.  Renal
   function OK by labs.  Maybe mildly dry.
   -  Will give IV fluids today and monitor.
   # DM2: SSI
   # FEN: NPO , NS IV
   # Access: PIVs
   # PPx: heparin SC, PPI
   # Code:  Full
   # Dispo:  ICU
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-12-12**] 09:00 PM
   20 Gauge - [**2124-12-12**] 09:03 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  With husband, [**Name (NI) **].
   [**Name2 (NI) 66**] status: Full code
   Disposition:

2124-12-14 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2124-12-13**] 10:20 AM
 TRANSTHORACIC ECHO - At [**2124-12-13**] 11:03 AM
 ULTRASOUND - At [**2124-12-13**] 02:30 PM
   caritid US to R/O clot
 TRANSTHORACIC ECHO - At [**2124-12-13**] 04:17 PM
   repeated with bubble study this time
 EKG - At [**2124-12-13**] 11:53 PM
   Pt seen by  Neurology
   droplet precautions and antibiotics d/c
   CT Neck: no fracture
   Failed S+S
   ECG improving in PM, but remains with non-specific changes, CE stable.
   NPH added to insulin regimen
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-12-13**] 02:00 AM
   Vancomycin - [**2124-12-13**] 04:50 AM
   Ampicillin - [**2124-12-13**] 08:23 AM
   Acyclovir - [**2124-12-13**] 11:59 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-12-13**] 10:10 PM
   Heparin Sodium (Prophylaxis) - [**2124-12-13**] 11:29 PM
   Other medications:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Denies pain
   Flowsheet Data as of  [**2124-12-14**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.3
   HR: 94 (82 - 114) bpm
   BP: 189/88(115) {126/64(80) - 201/113(126)} mmHg
   RR: 24 (13 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,388 mL
                                                                    250 mL
   PO:
             TF:
   IVF:
                                                                  2,388 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,415 mL
                                                                    535 mL
   Urine:
                                                                  1,415 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    973 mL
                                                                   -285 mL
   Respiratory support
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   GEN: somnolent appearing, NAD
   HEENT:  mm dry, PRR
   CV: mildly tachy (110), reg rhythm, no murmurs
   PULM:  ? diffuse rhonchi vs upper airway noises.
   ABD: +bs, soft, nt, nd
   EXT: 2+ distal pulses, no edema
   NEUO: reponds to simple commands, does not open eyes, no speech.
   Normal tone, 4/5 strength throughout.  Toes upgoing on right, equivical
   on left.
   Labs / Radiology
   278 K/uL
   12.7 g/dL
   148 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.0 mEq/L
   10 mg/dL
   105 mEq/L
   139 mEq/L
   36.3 %
   12.8 K/uL
        [image002.jpg]
                            [**2124-12-12**]  08:38 PM
                            [**2124-12-13**]  12:15 AM
                            [**2124-12-13**]  04:24 AM
                            [**2124-12-13**]  01:02 PM
                            [**2124-12-14**]  03:30 AM
   WBC
   12.6
   12.6
   12.8
   Hct
   39.2
   39.2
   36.3
   Plt
   343
   309
   278
   Cr
   0.6
   0.7
   0.6
   0.5
   TropT
   0.07
   0.08
   0.07
   TCO2
   29
   Glucose
   193
   213
   153
   148
   Other labs: PT / PTT / INR:13.8/28.2/1.2, CK / CKMB /
   Troponin-T:295/6/0.07, ALT / AST:25/40, Alk Phos / T Bili:75/, Lactic
   Acid:1.4 mmol/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
   Assessment and Plan
   This is a 74 year-old woamn with a history of CAD and retinal artery
   occlusion who p/w stroke in the setting of possible NSTEMI.
   # Stroke:  Patient responds to commands, not opening her eyes as well
   as yesterday.  As to cause of the event, no evidence of embolic source
   on TTE and bubble study negative.  Appreciate Neuro recs.
   - continue on ASA PR as pt NPO.
   - follow-up carotid U/S study.
   - repeat head CT today
   - continue aspiration precautions
   - cotninue q2 neuro checks
   - goal SBP <200, labetalol PRN
   - low threshold to intubate if not protecting airway
   # NSTEMI: Troponins slightly elevated but stable.  EKGs without
   evdeince of acute changes. No events on tele; unlikely that his was
   ACS.
   - ASA; holding plavix/ACE-I/satin while pt NPO
   - PM cardiac enzymes
   - continue to monitor on tele
   # Decreased UOP: resolved;  Renal function normal.  Still appears dry
   on exam
   - 500cc fluid bolus
   - maintenance NS @ 125cc/hr
    # DM2: SSI and standing dose.
   # Pain control: PR tylenol PRN
    # FEN: currently NPO.  Pt likely to be NPO for some time and will need
   alternative means of nutrition.
   - Plan for NG tube placement today
   - continue maintenance fluids as above
    # Access: PIVs
    #  PPx: heparin SC, PPI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2124-12-12**] 09:00 PM
   20 Gauge - [**2124-12-12**] 09:03 PM
   Prophylaxis:
   DVT:  sq heparin
   Stress ulcer:  PPI
   Communication:  with daughter
   [**Name (NI) 66**] status: Full code
   Disposition: likely transfer to neuro

2124-12-14 10:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2124-12-13**] 10:20 AM
 TRANSTHORACIC ECHO - At [**2124-12-13**] 11:03 AM
 ULTRASOUND - At [**2124-12-13**] 02:30 PM
   carotid US to R/O clot
 TRANSTHORACIC ECHO - At [**2124-12-13**] 04:17 PM
   repeated with bubble study this time
 EKG - At [**2124-12-13**] 11:53 PM
   Had CT neck yesterday - no fracture
   Failed speech and swallow
   left MCA territory embolic infacts
   scheduled to have repeat CT brain today
   no events overnight
   currently on room air with good sats
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2124-12-13**] 02:00 AM
   Vancomycin - [**2124-12-13**] 04:50 AM
   Ampicillin - [**2124-12-13**] 08:23 AM
   Acyclovir - [**2124-12-13**] 11:59 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-12-13**] 10:10 PM
   Heparin Sodium (Prophylaxis) - [**2124-12-14**] 08:00 AM
   Other medications:
   labetolol, plavix, asa (not getting as NPO)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-12-14**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (98.9
   HR: 109 (83 - 114) bpm
   BP: 173/77(101) {126/64(80) - 201/113(126)} mmHg
   RR: 18 (13 - 30) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,400 mL
                                                                    451 mL
   PO:
             TF:
   IVF:
                                                                  2,400 mL
                                                                    451 mL
   Blood products:
   Total out:
                                                                  1,415 mL
                                                                    780 mL
   Urine:
                                                                  1,415 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    985 mL
                                                                   -329 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress, MM dry
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: bilat)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed, somnolent but arousable,
   opens eyes appears more alert
   Labs / Radiology
   12.7 g/dL
   278 K/uL
   148 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.0 mEq/L
   10 mg/dL
   105 mEq/L
   139 mEq/L
   36.3 %
   12.8 K/uL
        [image002.jpg]
                            [**2124-12-12**]  08:38 PM
                            [**2124-12-13**]  12:15 AM
                            [**2124-12-13**]  04:24 AM
                            [**2124-12-13**]  01:02 PM
                            [**2124-12-14**]  03:30 AM
   WBC
   12.6
   12.6
   12.8
   Hct
   39.2
   39.2
   36.3
   Plt
   343
   309
   278
   Cr
   0.6
   0.7
   0.6
   0.5
   TropT
   0.07
   0.08
   0.07
   TCO2
   29
   Glucose
   193
   213
   153
   148
   Other labs: PT / PTT / INR:13.8/28.2/1.2, CK / CKMB /
   Troponin-T:295/6/0.07, ALT / AST:25/40, Alk Phos / T Bili:75/, Lactic
   Acid:1.4 mmol/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 HYPERTENSION, BENIGN
 CVA (STROKE, CEREBRAL INFARCTION), ISCHEMIC
   1) acute CVA - repeat head CT today
   on aspiration precautions, npo, speech and swallow input appreciated
   neurochecks.
   2) question of NSTEMI - no evidence of ruptured plaque, trop stable, no
   arrhythmias
   3) DM - on ISS
   4) hypertension - off labetolol, will give low dose beta blocker
   Transfer to neuro floor
   ICU Care
   Nutrition: NPO consider NG tube,
   Glycemic Control:  Regular insulin sliding scale
   18 Gauge - [**2124-12-12**] 09:00 PM
   20 Gauge - [**2124-12-12**] 09:03 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: ICU, Code status: Full code, Disposition :ICU
   Total time spent: 35 minutes, Patient is critically ill